US04287341
To 0.1 mole of 6-chloro-2,4-dimethylmercapto-7,8-dimethoxyquinazoline in 200 ml. of tetrahydrofuan is added a solution of 0.1 mole of anhydrous ammonia in tetrahydrofuran. The mixture is stirred at room temperature for 18 hours and the precipitate which forms is collected and recrystallized from dimethylformamide/water to yield 2-methylmercapto-4-amino-6-chloro-7,8-dimethoxyquinazoline.

reactant | 6-chloro-2,4-dimethylmercapto-7,8-dimethoxyquinazoline | 0.1 mole | ClC=1C=C2C(=NC(=NC2=C(C1OC)OC)SC)SC | C12H13ClN2O2S2
reactant | ammonia | 0.1 mole | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-methylmercapto-4-amino-6-chloro-7,8-dimethoxyquinazoline | CSC1=NC2=C(C(=C(C=C2C(=N1)N)Cl)OC)OC | C11H12ClN3O2S
